Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2]=[C:3]([H:4])[C:5](=[O:6])[C:10]([H:11])([H:12])[H:13],2.1895141814
[H:1][C:2][C:10]([H:11])([H:12])[H:13].[O:3]=[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.54310818699
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[O:9][C:10][H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11],-1.22485658656
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12],-5.65529559165
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])[H:11].[H:1][O:2][C:3],1.91280191234
[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3],6.195863517519999
[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.37052642418
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[O:3],0.8709512955
[H:1][C:2](=[C:3]([H:4])[H:5])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13],-1.91828133221
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.32504074554
[C:11]([H:12])([H:13])[H:14].[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.4849433484699994
[C:1]#[C:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([H:4])[C@@:5]([H:6])([O:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.7130739493
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],4.00454573585
[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.58797119815
[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[H:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-3.42583752398
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][H:5].[O:6]=[C:7]([H:8])[H:9],-1.37670364011
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17].[H:9],2.07278552208
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.89497637102
[H:7].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6][O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.77532021333
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],0.35421035659
[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C@:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],4.531775805350001
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3],0.747856970149
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.91166601916
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],5.25194662827
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.233724507330001
[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2].[O:3]=[C:4]([H:5])/[C:6]=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],2.36041666351
[C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-5.354503079840001
